US07812022B2
Step C: N-{3-[3-(2-chloro-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]phenyl}-2,2,2-trifluoroacetamide
N-[3-(2-Chloro-pyrimidin-4-ylethynyl)-phenyl]-2,2,2-trifluoro-acetamide (9.14 g, 28.1 mmol), N-aminopyridinium iodide (6.24 g, 28.1 mmol), KOH (1.57 g, 28.9 mmol) and K2CO3 (7.76 g) were heated in DMSO (175 mL) were reacted according to earlier examples to afford, after workup, 7.45 g of the title compound, Rf=0.2 (2:1 Hex/EtOAc).

reactant | N-[3-(2-Chloro-pyrimidin-4-ylethynyl)-phenyl]-2,2,2-trifluoro-acetamide | 28.1 mmol, 9.14 g | ClC1=NC=CC(=N1)C#CC=1C=C(C=CC1)NC(C(F)(F)F)=O | C14H7ClF3N3O
reactant | N-aminopyridinium iodide | 28.1 mmol, 6.24 g | [I-].N[N+]1=CC=CC=C1
reactant | KOH | 28.9 mmol, 1.57 g | [OH-].[K+]
reactant | K2CO3 | 7.76 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 175 mL | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-{3-[3-(2-chloro-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]phenyl}-2,2,2-trifluoroacetamide | 7.45 g | ClC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C=2C=C(C=CC2)NC(C(F)(F)F)=O | C19H11ClF3N5O
